US08865712B2
b) [(2R,5R)-5-(6-Amino-pyridin-2-yl)-2,5-dimethyl-2-trifluoromethyl-5,6-dihydro-2H-[1,4]oxazin-3-yl]-carbamic acid tert-butyl ester
A solution of (2R,5R)-5-(6-amino-pyridin-2-yl)-2,5-dimethyl-2-trifluoromethyl-5,6-dihydro-2H-[1,4]oxazin-3-ylamine (2.77 g, 9.61 mmol), Boc2O (2.31 g, 10.57 mmol) and DIPEA (2.2 ml, 12.5 mmol) in DCM (28 ml) and THF (2 ml) was stirred for 3 days. The mixture was evaporated and purified by chromatography on silica gel (hexanes/10-20% EtOAc) to give 3.34 g of the title compound as a colorless solid. HPLC: RtH3=3.048 min; ESIMS: 389 [(M+H)+]; 1H-NMR (600 MHz, DMSO-d6): 10.88 (s, 1H), 7.43 (t, 1H), 6.48 (d, 1H), 6.41 (d, 1H), 6.01 (br s, 2H), 4.16 (d, 1H), 4.11 (d, 1H), 1.54 (s, 3H), 1.52 (s, 3H), 1.45 (s, 9H).

reactant | (2R,5R)-5-(6-amino-pyridin-2-yl)-2,5-dimethyl-2-trifluoromethyl-5,6-dihydro-2H-[1,4]oxazin-3-ylamine | 9.61 mmol, 2.77 g | NC1=CC=CC(=N1)[C@]1(N=C([C@@](OC1)(C(F)(F)F)C)N)C | C12H15F3N4O
reactant | Boc2O | 10.57 mmol, 2.31 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | DIPEA | 12.5 mmol, 2.2 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 28 ml | C(Cl)Cl | CH2Cl2
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | [(2R,5R)-5-(6-Amino-pyridin-2-yl)-2,5-dimethyl-2-trifluoromethyl-5,6-dihydro-2H-[1,4]oxazin-3-yl]-carbamic acid tert-butyl ester | 3.34 g | C(C)(C)(C)OC(NC=1[C@@](OC[C@@](N1)(C)C1=NC(=CC=C1)N)(C(F)(F)F)C)=O | C17H23F3N4O3
